US07906661B2
The primary amine derivative of paclitaxel (0.091 mmol) can be dissolved in ethyl acetate (9.1 ml) and a saturated solution of NaHCO3 (9.1 ml) was added. To this biphasic mixture Boc2O (0.18 mmol) can be added. The mixture is stirred for 12 h at room temperature and TLC showed complete consumption of the starting material. The reaction can be worked up as usual and the residue purified by column chromatography using mixtures of dichloromethane and ethyl acetate or acetone to give docetaxel.

reactant | paclitaxel | 0.091 mmol | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | NaHCO3 | 9.1 ml | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 0.18 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 9.1 ml | C(C)(=O)OCC | C4H8O2
product | docetaxel | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)OC(C)(C)C)O)O)OC(=O)C=6C=CC=CC6)(CO4)OC(=O)C)O)C)O | C43H53NO14
